US09145391B2
To a solution of sodium methanolate (90 g, 1.67 mol) in methanol (300 mL) was added dimethyl 2-methyl-6-oxocyclohex-1-ene-1,3-dicarboxylate (150 g, 663.04 mmol) in methanol (150 mL) dropwise with stirring over 30 minutes. The resulting solution was heated to 80° C. for 30 minutes, and the mixture was concentrated in vacuo. The reaction mixture was diluted with H2O/ice (120 mL); then diluted furtherwith acetic acid (130 mL). The resulting solution was extracted with Et2O (3×), and the organic layers were combined and dried over Na2SO4, filtered, and concentrated in vacuo. The final product was purified by distillation under reduced pressure (5 mm Hg), and the fraction was collected at 110˜120° C. Methyl 2-methyl-4-oxocyclohex-2-enecarboxylate was obtained as a yellow oil. MS ESI calcd. for C9H13O3 [M+H]+ 169. found 169.

reactant | sodium methanolate | 1.67 mol, 90 g | C[O-].[Na+]
reactant | dimethyl 2-methyl-6-oxocyclohex-1-ene-1,3-dicarboxylate | 663.04 mmol, 150 g | CC1=C(C(CCC1C(=O)OC)=O)C(=O)OC | C11H14O5
solvent | methanol | 300 mL | CO | CH4O
solvent | methanol | 150 mL | CO | CH4O
product | Methyl 2-methyl-4-oxocyclohex-2-enecarboxylate | CC=1C(CCC(C1)=O)C(=O)OC | C9H12O3
